US05434257
B.2. 5-Bromo-3',5'-diacetyl-N4 -(2-hydroxy-m-nitrophenyl)-2'-deoxycytidine
To a solution of 3',5'-diacetyl-5-bromo-2'-deoxyuridine (4.8 g; 12 mmol), methylene chloride (50 ml), triethylamine (5.0 g; 50 mmol) and DMAP (0.10 g) was added 2-mesitylsulfonyl chloride (5.2 g; 24 mmol). After stirring at room temperature for 4 h., DBU (3.6 g; 24 mmol) and 2-amino-4-nitrophenol (7.4 g; 48 mmol) were added and the solution was stirred for 3 h. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer was purified by flash column chromatography on silica gel. The isolated product had some impurity and was triturated with ethyl acetate. The yellowish precipitate was filtered off and washed with methylene chloride to yield the title compound.

reactant | 3',5'-diacetyl-5-bromo-2'-deoxyuridine | 12 mmol, 4.8 g | C(C)(=O)[C@@]1(C[C@@H](O[C@@H]1C(O)C(C)=O)N1C(=O)NC(=O)C(=C1)Br)O | C13H15BrN2O7
reactant | triethylamine | 50 mmol, 5.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylsulfonyl chloride | 24 mmol, 5.2 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | DBU | 24 mmol, 3.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-amino-4-nitrophenol | 48 mmol, 7.4 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
catalyst | DMAP | 0.10 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-3',5'-diacetyl-N4 -(2-hydroxy-m-nitrophenyl)-2'-deoxycytidine | BrC=1C(=NC(N([C@H]2C[C@](O)([C@@H](C(O)C(C)=O)O2)C(C)=O)C1)=O)NC1=C(C(=CC=C1)[N+](=O)[O-])O | C19H19BrN4O9
